US06063793
2,2-Dimethyl-3-octenoic acid is prepared by adding 2,2-dimethyl-3-octene nitrile (1.51 g, 0.01 m) to a solution prepared from 15% NaOH in butanol/H2O (2:3) (30 mL). The reaction mixture is stirred and refluxed for 7 hours, is cooled and made acidic with 10% hydrochloric acid. The reaction mixture is extracted with diet hyl ether and the extract washed with saturated NaCl and dried over MgSO4, filtered and concentrated to give 2,2-dimethyl-3-octenoic acid.

reactant | 2,2-dimethyl-3-octene nitrile | 1.51 g | CC(C#N)(C=CCCCC)C | C10H17N
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | butanol H2O | 30 mL | C(CCC)O.O
product | 2,2-dimethyl-3-octenoic acid | CC(C(=O)O)(C=CCCCC)C | C10H18O2
